US07598423B2
Synthesis of 2-fluoro-5-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile
Add tetrabutylammonium fluoride (1.0M in tetrahydrofuran, 5.27 mL, 5.27 mmol) to 5-[[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-2-fluoro-benzonitrile (1.20 g, 2.64 mmol) and stir the solution overnight. Dilute with dichloromethane and wash with water and brine. Dry the organic layer and concentrate the solution to afford the title compound (0.890 g, 2.60 mmol, 99%, mixture of diastereomers): 1H NMR (400 MHz, CDCl3) δ 1.55 (m, 2H), 1.68 (m, 2H), 1.74 (m, 2H), 3.46 (m, 1H), 3.77 (m, 1H), 4.60 (m, 1H), 4.67 (s, 2H), 5.78 (s, 1H), 7.10 (m, 1H), 7.27 (m, 4H), 7.55 (m, 1H), 7.64 (m, 1H).

reactant | tetrabutylammonium fluoride | 5.27 mmol, 1.0M, 5.27 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-[[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-2-fluoro-benzonitrile | 2.64 mmol, 1.20 g | C(C)(C)(C)[SiH2]OC(C1=CC=C(C=C1)C(C=1C=CC(=C(C#N)C1)F)OC1OCCCC1)(C)C | C26H34FNO3Si
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-fluoro-5-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 2.60 mmol, 0.890 g, 99% | FC1=C(C#N)C=C(C=C1)C(OC1OCCCC1)C1=CC=C(C=C1)CO | C20H20FNO3
